reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2](=[O:3])[O+:5]=[C-:4][C:6]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9],11.853335824083501
[C:1]([C:2]([C-:3]=[O+:4][C:5]#[C:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],26.537704032865904
[O:1]([N:3]=[C:2]=[N:6][C:5](=[N:4][H:8])[H:9])[H:7]>>[O:1]([c:2]1[n:3][n:4]([H:8])[c:5]([H:9])[n:6]1)[H:7],31.13357609915481
[C:1](/[C:2](=[N:3]/[O:4][H:10])[C:5]([O:6][H:13])([H:11])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2]([N:3]=[O:4])=[C:5]([H:11])[H:12])([H:7])([H:8])[H:9].[O:6]([H:10])[H:13],48.131538910912504
[C:1]([C@@:2]([C:3]#[N:4])([C@@:5]1([H:13])[O:6][C:7]1([H:12])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]#[N:4])([C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],69.8286674956226
[C:1]([C@@:2]1([H:11])[O:3][C:6](=[O:7])[N:5]([H:15])[C:4]1([H:13])[H:14])([H:8])([H:9])[H:10].[H:12][H:16]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],78.28782152232492
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]1([C:4]([H:11])([H:12])[H:14])[O+:6]=[C-:5][H:13]>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]12[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]2,37.81722131565971
[C:1]1([H:6])([H:7])[C:2]([H:8])([H:9])[C:3]([H:10])=[C:4]([H:11])[C:5]1([H:12])[H:13]>>[C:1]1([H:6])([H:7])[C:4]([C:3](=[C:2]([H:8])[H:9])[H:10])([H:11])[C:5]1([H:12])[H:13],86.6910886753776
[O:1]1[C:2]([H:9])([H:10])[C@:3]1([C:4]([C:5]([C:6]([O:7][H:8])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11]>>[O:1]([C:2]([C@@:3]1([H:11])[C:4]([H:12])([H:13])[C:5]([H:14])([H:15])[C:6]([H:16])([H:17])[O:7]1)([H:9])[H:10])[H:8],47.697146253020705
[C:1]([C:2]([C@@:3]([C:4]([H:12])([H:13])[H:14])([O:5][H:15])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3](=[O:5])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8].[C:4]([H:12])([H:13])([H:14])[H:15],83.1068728364991
[N:1]([C@@:2]1([O:3][H:15])[N:4]([H:10])[C:5]([H:11])([H:12])[C:6]([H:13])([H:14])[O:7]1)([H:8])[H:9]>>[N:1]([C:2](=[O:3])[N:4]([C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9],21.726213629662013
[O:1]=[C:2]([C:3]([C:4]#[C:5][H:10])([H:8])[H:9])[C:6]#[N:7]>>[O:1]=[C:2]([C:3]([C:4]#[C:5][H:10])([H:8])[H:9])[N+:7]#[C-:6],41.5068601131967
[O:1]1[C:2]([H:8])([H:9])[C:3]([H:10])([H:11])[N:4]([H:12])[C@:5]1([O:6][H:7])[H:13]>>[O:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],31.483450772561504
[C:1]([N:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[C:7]([H:15])([H:16])[H:17])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:4]/[C:3](=[N:2]/[H:11])[N:5]([C:6]([H:12])([H:13])[H:14])[C:7]([H:15])([H:16])[H:17])([H:8])([H:9])[H:10],77.8748256628632
[C:1]([C@@:2]1([H:11])[O:3][C:4]([H:12])([H:13])/[C:5](=[N:6]/[H:14])[O:7]1)([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O+:3]=[C-:4][H:13])([O:7]/[C:5](=[N:6]\[H:14])[H:12])[H:11])([H:8])([H:9])[H:10],92.29062378011592
[C:1]([C:2]([O:3][H:11])([C:4](=[O:5])[H:12])[C:6](=[O:7])[H:13])([H:8])([H:9])[H:10]>>[C:1](/[C:2]([O:3][H:11])=[C:4](\[O:5][H:8])[H:12])([C:6](=[O:7])[H:13])([H:9])[H:10],76.8163719317434
[C:1]([N:2]([C@@:3]([C:4]([O:5][H:15])([H:13])[H:14])([N+:7]#[C-:6])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C@@:3]([C:4]([O:5][H:15])([H:13])[H:14])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10],30.85704245017881
[C:1]([O:4][C:3](=[C:2]([H:10])[H:11])[C:5]#[N:6])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9],78.1506119537881
[C:1]([C@@:2]([C:3]([O:6][H:16])([H:11])[H:12])([C:4](=[C:5]([H:14])[H:15])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([O:6][H:16])([H:14])[H:15])[H:13])([H:7])([H:8])[H:9],84.13860013951466
[C:1]([O:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:10])[O:2][C@@:3]12[O:4][C@:6]([O:7][H:9])([H:13])[C:5]2([H:11])[H:12],89.1965021874163
[O:1]([C:2]1=[C:6]2[N:4]([C:3]1([H:7])[H:8])[C:5]2([H:9])[H:10])[H:11]>>[O:1]=[C:2]1[C:3]([H:7])([H:8])[N:4]2[C:5]([H:9])([H:10])[C@@:6]12[H:11],24.7105569796839
[O:1]([C@@:2]1([H:8])[C:3]([H:9])=[C:6]([H:10])[C:5]1=[O:4])[H:7]>>[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[C:6][H:10])[H:8])[H:7],119.95695155668159
[C:1]([C:2]([O:3][C:4]([O:5][H:14])=[C:6]([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9],39.6854860346411
[N:3](=[C:4]([H:10])[H:11])[H:9].[O:1]=[C:2]([C:7](=[C:6]=[C:5]([H:12])[H:13])[H:14])[H:8]>>[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8],34.0062018490089
[O:1]=[C:2]([C:3]#[C:4][C:5](=[O:6])[H:8])[H:7]>>[O:1]=[C:2]([C:3]#[C:4][O+:6]=[C-:5][H:8])[H:7],102.211834169667
